US06339099B1
3-Cyano-4-fluorobenzaldehyde (5.00 g) and hydroxyamine hydrochloride (2.90 g, 1.25 Eq) were dissolved in ethanol (100 mL) and pyridine (100 mL). The mixture was stirred at RT under N2 for 45 minutes. The solvents were removed and the brown oil was partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over MgSO4, and concentrated to give 3-cyano-4-fluorobenzaldehydeoxime (5.03 g). CI mass spectrum z (rel. intensity) 165 (M+H, 100).

reactant | 3-Cyano-4-fluorobenzaldehyde | 5.00 g | C(#N)C=1C=C(C=O)C=CC1F | C8H4FNO
reactant | hydroxyamine hydrochloride | 2.90 g, 1.25 Eq | Cl.ON
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | 3-cyano-4-fluorobenzaldehydeoxime | 5.03 g | C(#N)C=1C=C(C=NO)C=CC1F | C8H5FN2O
